Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.36885703195
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5]#[C:6][H:7]>>[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-2.13270709903
[C:9]([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[O:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],-2.17623493377
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7][H:8],4.18623860028
[C:5]([H:6])[H:7].[H:1][O:2][C:3]#[C:4][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.29834118991
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],5.20070134876
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[H:11],4.44671172387
[H:10].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.75547795994
[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[O:1][O:2][C:3]#[C:4][H:5],2.8198882113300003
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])[H:8]>>[C:3]#[C:4][H:5].[O:1]=[C:2]=[C:6]([H:7])[H:8],2.96294507399
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][H:7],5.32189582488
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11]1>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11],3.4935387879800004
[C:8]([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:9]#[C:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])[H:12],-7.447368666469999
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:10][H:11].[H:9],1.85328904053
[H:12].[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])=[O:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-2.06141328317
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([C:7]([H:8])([H:9])[H:10])=[O:11]>>[H:1][C:2]([H:3])=[C:4]1[C:5][C:6]([C:7]([H:8])([H:9])[H:10])[O:11]1,1.7185065292099997
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.66813330379
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[O:7],0.8733463163490001
[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]#[C:3][C:4][O:5][H:6]>>[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-1.13957954035
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])=[C:12][H:13]>>[H:1][C:2]([H:3])[C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])=[C:12]1[H:13],-0.507120476271
[H:1][C:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9].[H:1],3.588403827790001
[O:1][C@@:2]([H:3])([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11]>>[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([H:3])[O:10][H:11],1.40696275512
[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1].[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],7.491793736849999
[C:2]([H:3])[C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-7.791897265039999
[C:1]#[C:2][C:3][C:7]([H:8])[H:9].[C:4][O:5][H:6]>>[C:1]#[C:2]/[C:3](=[C:4]\[O:5][H:6])[C:7]([H:8])[H:9],-1.7675809745200002
[H:10].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.70969635349
[O:1]=[C:2][C:9]([H:10])([H:11])[H:12].[O:3]=[C:4][C:5]([H:6])([H:7])[H:8]>>[O:1]=[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-0.9688897742
[H:1][C:2][O:3][C:4][O:6][C:7][H:8].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][H:8],-4.22017880809
[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:11]([C:9](=[C:7][H:8])[H:10])([H:12])[H:13],1.48537770778
[C:1].[C:2]([H:3])([H:4])[H:5]>>[C:1][C:2]([H:3])([H:4])[H:5],-3.9840818584699993
[H:1][O:2][C@:3]1([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[C:10]([C:7]([C:6]=[O:5])([H:8])[H:9])([H:11])[H:12],0.570388893691
